US04446146
(i) 4-Allyl-1-t-butyldimethylsilylazetidin-2-one
Allylazetidinone (0.22 g) was dissolved in dry N,N-dimethylformamide (5 ml) containing t-butyldimethylsilyl chloride (0.33 g). The solution was cooled to 0° and was treated with triethylamine (0.22 g) in N,N-dimethylformamide (1 ml) over a period of 15 minutes. After a further 15 minutes the solution was poured into ethylacetate/water. The organic phase was separated, washed with dil HCl, brine, dried (Na2SO4), evaporated, and chromatographed on silica gel 60 (230 mesh) eluting with ethylacetate. This gave 4-allyl-1-t-butyldimethylsilylazetidin-2-one (0.39 g).

reactant | Allylazetidinone | 0.22 g | C(C=C)N1C(CC1)=O | C6H9NO
reactant | t-butyldimethylsilyl chloride | 0.33 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | ethylacetate water | C(C)OC(C)=O.O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-Allyl-1-t-butyldimethylsilylazetidin-2-one | C(C=C)C1CC(N1[Si](C)(C)C(C)(C)C)=O | C12H23NOSi
